US08735417B2
To a solution of ethyl 1-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate (22 mg, 0.046 mmol) in tetrahydrofuran (0.5 mL) and methanol (0.5 mL) was added 1M aqueous lithium hydroxide (0.5 mL, 0.5 mmol) and the mixture was heated to 90° C. for 90 minutes. The mixture was cooled to room temperature, diluted with 2-methyltetrahydrofuran (30 mL), and, washed with 1 N aqueous hydrochloric acid (30 mL) and brine (30 mL). The aqueous layers were further extracted with 2-methyltetrahydrofuran (30 mL). The combined organic extracts were dried over sodium sulfate and concentrated in vacuo to provide 1-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylic acid as a white solid. MS APCI: [M+H]+ m/z 450.1.

reactant | ethyl 1-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate | 0.046 mmol, 22 mg | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C1=CN=C(S1)N1CCC(CC1)C(=O)OCC)(F)F | C22H22F3N5O2S
reactant | lithium hydroxide | 0.5 mmol, 1M, 0.5 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | 2-methyltetrahydrofuran | 30 mL | CC1OCCC1 | C5H10O
product | 1-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylic acid | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C1=CN=C(S1)N1CCC(CC1)C(=O)O)(F)F | C20H18F3N5O2S
